US04332820
2-(4-Chlorophenoxy)-5-nitrobenzonitrile
To a solution of 3.95 g (0.0307 moles) of 4-chlorophenol dissolved in 150 ml of DMSO was added 1.23 g (0.0307 moles) of NaOH. The slurry was heated at 60° C. for 15 minutes and 5.04 g (0.0276 moles) of 2-chloro-5-nitrobenzonitrile was added and the mixture was heated at 75° C. for 3 hrs. The reaction mixture was cooled and poured into water. The product was collected by filtration, washed well with water and dried, to produce 7.0 g of the product (92% yield). Recrystallization from ethanol afforded purified 2-(4-chlorophenoxy)-5-nitrobenzonitrile, mp 163°-164° C.

reactant | 4-chlorophenol | 0.0307 moles, 3.95 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | NaOH | 0.0307 moles, 1.23 g | [OH-].[Na+]
reactant | 2-chloro-5-nitrobenzonitrile | 0.0276 moles, 5.04 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | water | O | H2O
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | 2-(4-Chlorophenoxy)-5-nitrobenzonitrile | 7.0 g, 92% yield | ClC1=CC=C(OC2=C(C#N)C=C(C=C2)[N+](=O)[O-])C=C1 | C13H7ClN2O3
